US04883758
Fermentation of 3,7-Dihydroxytropolone (BU-3129T)
A loopful of Streptomyces tropolofaciens No. K611-97, taken from a mature slant culture was inoculated into 500-ml Erlenmeyer flask containing 100 ml of a seed medium consisted of 3% soybean meal, 2% corn starch, 0.33% MgSO4.7H2O and 1% CaCO3, the pH being adjusted to 7.0 before sterilization. The flask was then incubated at 28° C. for 4 days on a rotary shaker (200 rpm) and 5 ml of the growth was transferred into 500-ml Erlenmeyer flask containing 100 ml of a fermentation medium having the same composition as the seed medium. The fermentation was carried out at 28° C. for 6 days on a rotary shaker. The antibiotic production was monitored by the paper-disc agar diffusion method against Cryptococcus neoformans IAM 4514 as a test organism. For a large scale production, the fermentation studies were carried out in stainless-steel fermentors. The culture was prepared in twenty 500-ml Erlenmeyer flasks incubated at 32° C. for 4 days on the rotary shaker. The resultant culture was transferred into a 200-liter tank fermentor containing 120 liters of a production medium. The seed and production media consisted of 3% soybean meal, 3% glucose, 0.5% Pharmamedia, 0.1% yeast extract and 0.3% CaCO3. Tank fermentation was carried out at 28° C. with stirring at 250 rpm and aeration at 120 liter/min. The production reached a maximum after 115 hours fermentation.

reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | 3,7-Dihydroxytropolone | C1=CC(=O)C(=C(C(=C1)O)O)O | C7H6O4
